US08067408B2
N-({6-Cyano-3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
N-[(6-Cyano-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (182 mg, 0.000272 mol) in DCM (4 mL) and 1-methylhexahydro-1H-1,4-diazepine (43.4 mg, 0.00038 mol) were mixed with sodium triacetoxyborohydride (115 mg, 0.00054 mol) and AcOH (19.5 mg, 19 μL). The solution was stirred overnight at room temperature. LC-MS showed that the reaction was complete. The reaction was quenched with sat. aq. NaHCO3, then extracted with DCM (2×). Combined organic extracts were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a glassy foam (150 mg). Purification was carried out on Gilson instrument with acetonitrile-water (0.1% TFA) gradient; C18-RP column. Fractions containing the clean desired product were combined; diluted with EtOAc; washed with sat. aq. NaHCO3; and the aq. phase was back-extracted with EtOAc. Combined organic layers were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. It was taken up in a small amount of DCM and transferred to a vial and pumped down to afford the title compound as a solid. Further purification of the material was needed and this was carried out on a Chomatotron utilizing silica gel [DCM-MeOH-conc. aq. NH3, (90:7:3)] to afford 42 mg of the title compound as a glassy solid. LC-MS m/z 768.7 (M+H)+.

reactant | N-[(6-Cyano-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.000272 mol, 182 mg | C(#N)C1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C39H39N7O4
reactant | 1-methylhexahydro-1H-1,4-diazepine | 0.00038 mol, 43.4 mg | CN1CCNCCC1 | C6H14N2
reactant | sodium triacetoxyborohydride | 0.00054 mol, 115 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 19 μL, 19.5 mg | CC(=O)O | C2H4O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-({6-Cyano-3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | C(#N)C1=CC=C(C=C1C1=CC(=CC=C1)CN1CCN(CCC1)C)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C45H53N9O3
